US08071592B2
1-[2-((2S)-2-{[(2,3-Dihydro[1,4]dioxino[2,3-c]pyridin-7-ylmethyl)amino]methyl}-4-morpholinyl)ethyl]-7-(methyloxy)-1,5-naphthyridin-2(1H)-one
To a solution of 1-{2-[(2S)-2-(aminomethyl)-4-morpholinyl]ethyl}-7-(methyloxy)-1,5-naphthyridin-2(1H)-one (0.100 g, 0.314 mmol) in 1:1 (MeOH/CH2Cl2) (25 mL) were added 2,3-dihydro[1,4]dioxino[2,3-c]pyridine-7-carboxaldehyde) (for a synthesis see WO2004/058144 Example 2(c) or WO03/087098, Example 19(d)) (0.052 g, 0.314 mmol) and sodium sulphate (0.100 g) and the resulting solution stirred for 18 hours at ambient temperature. Na(OAc)3BH (0.200 g, 0.942 mmol) was added and the solution stirred an additional 2 h. The reaction mixture was concentrated onto silica gel and chromatographed to yield a colorless oil and further purified by HPLC(CH3CN/H2O) to yield the title compound as a white powder (0.049 g, 33%).

reactant | 1-{2-[(2S)-2-(aminomethyl)-4-morpholinyl]ethyl}-7-(methyloxy)-1,5-naphthyridin-2(1H)-one | 0.314 mmol, 0.100 g | NC[C@H]1CN(CCO1)CCN1C(C=CC2=NC=C(C=C12)OC)=O | C16H22N4O3
reactant | 2,3-dihydro[1,4]dioxino[2,3-c]pyridine-7-carboxaldehyde | O1CCOC=2C=NC(=CC21)C=O | C8H7NO3
reactant | sodium sulphate | 0.100 g | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | Na(OAc)3BH | 0.942 mmol, 0.200 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | MeOH CH2Cl2 | CO.C(Cl)Cl
product | 1-[2-((2S)-2-{[(2,3-Dihydro[1,4]dioxino[2,3-c]pyridin-7-ylmethyl)amino]methyl}-4-morpholinyl)ethyl]-7-(methyloxy)-1,5-naphthyridin-2(1H)-one | 0.049 g, 33% | O1CCOC=2C=NC(=CC21)CNC[C@H]2CN(CCO2)CCN2C(C=CC1=NC=C(C=C21)OC)=O | C24H29N5O5
